2142-04-16 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hypertensive to 160/100 --> no intervention.
   - Anxiety --> very anxious, given 1 mg Ativan
   - Elevated abd pressure --> bladder pressure 30-40
   - [**Doctor First Name **] Consulted: not abdominal compartment syndrome
   - GI Consult: Give fluids, staff later.
   - Delirium --> tried to get up, thought he was on a leather chair,
   wanted to be left to sleep but wanted to go "back upstairs".
   Thoughts:Ativan vs worsening medical conditiom
   - Tachypnea --> steadily worsening, desat from 95-90. Electively
   intubated for airway protection
   - Imaging --> renal function improved to 1.3 --> prehydrated --> CT
   ABD/PELV with double contrast -->
   1. Edema and peripancreatic stranding consistent with pancreatitis.
   Focal area of hypoenhancement involving the pancreatic neck and
   portions of the body and head, which are most consistent with early
   pancreatic necrosis.
   2. Edema within the duodenal wall and gallbladder likely reactive in
   nature.
   3. Indeterminant 3-cm cystic appearing lesion exophytic off the upper
   pole of the left kidney in addition to multiple bilateral simple renal
   cysts. A renal ultrasound or MRI may be obtained for further
   characterization the the 3cm
   indeterminate lesion as the patient's clinical condition warrants.
   4. Small bilateral pleural effusions and adjacent airspace disease
   likely representing predominantly atelectasis.
   - CVL placed
   Allergies:
   Penicillins
   Rash;
   Vancomycin
   Rash;
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2142-4-16**] 05:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-4-15**] 09:01 AM
   Lorazepam (Ativan) - [**2142-4-15**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2142-4-15**] 11:16 PM
   Metoprolol - [**2142-4-16**] 04:14 AM
   Midazolam (Versed) - [**2142-4-16**] 06:08 AM
   Fentanyl - [**2142-4-16**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-4-16**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.7
   HR: 131 (99 - 131) bpm
   BP: 123/77(85) {88/62(67) - 173/109(117,120)} mmHg
   RR: 19 (14 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 1 (1 - 41)mmHg
   Bladder pressure: 32 (32 - 44) mmHg
   Total In:
                                                                  8,817 mL
                                                                  1,368 mL
   PO:
   TF:
   IVF:
                                                                  8,817 mL
                                                                  1,368 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    520 mL
   Urine:
                                                                  1,525 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,292 mL
                                                                    848 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 650) mL
   Vt (Spontaneous): 541 (541 - 541) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/33/81.[**Numeric Identifier 607**]/19/-5
   Ve: 8.2 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   14.8 g/dL
   118 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.5 mEq/L
   25 mg/dL
   113 mEq/L
   143 mEq/L
   44.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2142-4-14**]  08:56 PM
                             [**2142-4-15**]  04:30 AM
                             [**2142-4-15**]  10:45 AM
                             [**2142-4-15**]  03:15 PM
                             [**2142-4-16**]  03:51 AM
   WBC
   23.1
   25.6
   20.2
   Hct
   56.5
   54.6
   44.2
   Plt
   [**Telephone/Fax (3) 12191**]
   Cr
   1.7
   1.4
   1.3
   1.1
   TCO2
   19
   Glucose
   277
   194
   136
   118
   Other labs: PT / PTT / INR:14.3/25.4/1.2, ALT / AST:65/43, Alk Phos / T
   Bili:60/1.0, Amylase / Lipase:/977, Differential-Neuts:90.8 %,
   Lymph:4.0 %, Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:3.9
   g/dL, LDH:377 IU/L, Ca++:6.6 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   64 yo M with HTN, DMII, HLD, morbid obesity, p/w findings c/w
   pancreatitis, need to be evaled for question ERCP prior to questionable
   surgery for cholecystitis.
   .
   # Respiratory failure: tachypnea with poor saturation almost entirely
   due to restrictive physiology of abdominal expansion and pain
   - likely have to wait until fluid balance is negative
   - RSBI, SBT tomorrow
   .
   # pancreatitis/cholecystitis: Unclear precipitant. Cholecystitis likely
   from backwash of inflammatory pancreatic fluid. Partially necrosed with
   fluid collection
   - IVF, NGT placed, NPO except meds
   - switch unasyn
 meropenem given e/o necrotizing pancreatitis (D1 =
   [**4-16**])
   - consider NJT for tube feeds
   - f/u GI recs; may get MRCP
   .
   # leukocytosis - likely due to inflamed pancreas, hemoconcentration,
   constipation. Resolving.
   - trend
   .
   # ARF: likely due to dehydration, could be due to his underlying DM.
   Resolving with hydration
   - IVF for now
   - trend cr
   - dose meds renally
   - avoid nephrotoxins
   .
   # tachycardia: per patient at baseline
   - trend after IVF
   - clamp NGT; if tolerates, switch to home dose PO BB
   .
   # obesity/tachypnea: likely will have a component of body habitus, may
   be due to pain
   - pain control
   - getting ABG to see respiratory status
   .
   # Erythrocytosis: concentration + ? OSA or PCV
   - trend
   - outpatient follow up
   .
   # HTN: continue home med amlodipine, hold lisinopril due to ARF.
   .
   # DMII: ISS
   .
   # hyperlipidemia: control with statins
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin, pboots, famotidine.
   Access: CVL
   Code:  Full
   Communication: Patient; has sister [**Doctor First Name 429**] who is next-of-[**Doctor First Name **]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-4-14**] 10:03 PM
   18 Gauge - [**2142-4-15**] 08:19 PM
   Multi Lumen - [**2142-4-15**] 11:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-04-16 10:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yr old HTN, HL, NSTEMI in 08, s/p CABG, presented with abd pain to
   OSH. For acalculous chole and ARF sent to [**Hospital1 54**]. Found to have severe
   pancreatitis.
   24 Hour Events:
   For progressive dyspnea and inability to lay flat for CT, was
   intubated.
   Right IJ CVC placed without complications
   Allergies:
   Penicillins
   Rash;
   Vancomycin
   Rash;
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2142-4-16**] 08:55 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-4-15**] 12:30
   Metoprolol - [**2142-4-16**] 07:48 AM
   Heparin Sodium (Prophylaxis) -
   Midazolam (Versed) - [**2142-4-16**] 08:41
   Fentanyl - [**2142-4-16**] 08:41 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-4-16**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.8
   HR: 130 (99 - 131) bpm
   BP: 117/70(81) {88/62(67) - 173/109(121)} mmHg
   RR: 22 (14 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 1 (1 - 41)mmHg
   Bladder pressure: 32 (32 - 44) mmHg
                                Total In:
                                                                  8,817 mL
                                                                  2,151 mL
   PO:
                                TF:
   IVF:
                                                                  8,817 mL
                                                                  2,151 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    615 mL
   Urine:
                                                                  1,525 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,292 mL
                                                                  1,536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 650) mL
   Vt (Spontaneous): 541 (541 - 541) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/33/81.[**Numeric Identifier 607**]/19/-5
   Ve: 11.2 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases)
   Abdominal: Soft, Non-tender, BS +
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   14.8 g/dL
   133 K/uL
   118 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.5 mEq/L
   25 mg/dL
   113 mEq/L
   143 mEq/L
   44.2 %
   20.2 K/uL
        [image002.jpg]
                             [**2142-4-14**]  08:56 PM
                             [**2142-4-15**]  04:30 AM
                             [**2142-4-15**]  10:45 AM
                             [**2142-4-15**]  03:15 PM
                             [**2142-4-16**]  03:51 AM
   WBC
   23.1
   25.6
   20.2
   Hct
   56.5
   54.6
   44.2
   Plt
   [**Telephone/Fax (3) 12191**]
   Cr
   1.7
   1.4
   1.3
   1.1
   TCO2
   19
   Glucose
   277
   194
   136
   118
   Other labs: PT / PTT / INR:14.3/25.4/1.2, ALT / AST:65/43, Alk Phos / T
   Bili:60/1.0, Amylase / Lipase:/977, Differential-Neuts:90.8 %,
   Lymph:4.0 %, Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:3.9
   g/dL, LDH:377 IU/L, Ca++:6.6 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL. CRP
   185
   Assessment and Plan
   Acute Pancreatitis with necrosis
   - tolerating hydration, now 11.5 L positive for LOS.
   - c/w unasyn, will switch to meropenem given necrosis
   - comanage with surgery, GI
   - trend lactate
   - would hold off on MRCP until discuss with GI/liver again. Normal
   Tbili and ALP
   Acute renal failure
   - improved substantially
   Acute respiratory failure
   - will be difficult to extubate with >11 L positive volume balance
   - PSV trials and wean as tolerated
   Leukocytosis - improving
   Sinus tachycardia
   - likely 3^rd spacing +/- pain +/- underlying pancreatitis +/- BB
   withdrawal.
   - put back on home metoprolol
   Nutrition
 may need jejunal vs parenteral nutrition
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2142-4-14**] 10:03 PM
   18 Gauge - [**2142-4-15**] 08:19 PM
   Multi Lumen - [**2142-4-15**] 11:18 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:  [**Name (NI) 429**], sister are next of [**Doctor First Name **]
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes, Patient is critically ill

2142-04-17 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2142-4-16**] 03:03 PM
 MULTI LUMEN - START [**2142-4-16**] 03:42 PM
 FEVER - 102.1
F - [**2142-4-16**] 08:00 PM
   - CVL became unsterile on attempt to pull back; ended up resiting with
   new stick at RIJ
   - [**Doctor First Name **] c/s: fluid resuscitation, consider abx
   - GI c/s: no MRCP, prefer enteral feeding via NJ
   - started meropenem
   - aggressive hydration with LR, UOP improved to 50-60 cc/hr
   Allergies:
   Penicillins
   Rash;
   Vancomycin
   Rash;
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2142-4-16**] 08:55 AM
   Meropenem - [**2142-4-17**] 05:47 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Metoprolol - [**2142-4-16**] 07:48 AM
   Midazolam (Versed) - [**2142-4-16**] 02:15 PM
   Fentanyl - [**2142-4-16**] 02:15 PM
   Famotidine (Pepcid) - [**2142-4-16**] 11:36 PM
   Heparin Sodium (Prophylaxis) - [**2142-4-16**] 11:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-4-17**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.7
C (101.7
   HR: 133 (113 - 136) bpm
   BP: 153/79(96) {104/62(75) - 153/86(98)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 14 (12 - 14)mmHg
   Bladder pressure: 37 (37 - 37) mmHg
   Total In:
                                                                  9,017 mL
                                                                    802 mL
   PO:
   TF:
   IVF:
                                                                  8,917 mL
                                                                    752 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    300 mL
   Urine:
                                                                  1,210 mL
                                                                    300 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  7,757 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: /// 21/
   Ve: 11.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   122 K/uL
   12.6 g/dL
   116 mg/dL
   1.1 mg/dL
    21 mEq/L
   3.8 mEq/L
   22 mg/dL
   115 mEq/L
   145 mEq/L
   39.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2142-4-14**]  08:56 PM
                             [**2142-4-15**]  04:30 AM
                             [**2142-4-15**]  10:45 AM
                             [**2142-4-15**]  03:15 PM
                             [**2142-4-16**]  03:51 AM
                             [**2142-4-16**]  02:11 PM
                             [**2142-4-16**]  11:58 PM
                             [**2142-4-17**]  04:22 AM
   WBC
   23.1
   25.6
   20.2
   14.3
   Hct
   56.5
   54.6
   44.2
   41.3
   39.0
   Plt
   [**Telephone/Fax (3) 12199**]22
   Cr
   1.7
   1.4
   1.3
   1.1
   1.3
   1.1
   1.1
   TCO2
   19
   Glucose
   277
   194
   136
   118
   114
   116
   Other labs: PT / PTT / INR:14.3/25.4/1.2, ALT / AST:16/19, Alk Phos / T
   Bili:39/1.1, Amylase / Lipase:/977, Differential-Neuts:90.8 %,
   Lymph:4.0 %, Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.9
   g/dL, LDH:385 IU/L, Ca++:6.9 mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   64 yo M with HTN, DMII, HLD, morbid obesity, p/w findings c/w
   pancreatitis, need to be evaled for question ERCP prior to questionable
   surgery for cholecystitis.
   .
   # Respiratory failure: tachypnea with poor saturation almost entirely
   due to restrictive physiology of abdominal expansion and pain
   - likely have to wait until fluid balance is negative
   - RSBI, SBT daily
   - obtain ABG, consider increasing PEEP given increased intraabdominal
   pressure
   .
   # pancreatitis/cholecystitis: Unclear precipitant. Cholecystitis likely
   from backwash of inflammatory pancreatic fluid. Partially necrosed with
   fluid collection. His risk is very high - increasing CRP, falling
   calcium, respiratory distress
   - IVF, NGT placed, NPO except meds
   - NJ tube today
   - Meropenem, D1 = [**4-16**]
   - f/u GI recs re: TPN, surgery recs
   .
   # ARF: likely due to dehydration, could be due to his underlying DM.
   Resolving with hydration
   - IVF for now
   - trend cr
   - dose meds renally
   - avoid nephrotoxins
   .
   # leukocytosis - likely due to inflamed pancreas, hemoconcentration,
   constipation. Resolving.
   - trend
   .
   # tachycardia: per patient at baseline.
   - trend after IVF
   - clamp NGT; if tolerates, switch to home dose PO BB
   - uptitrate BB
   .
   # obesity/tachypnea: likely will have a component of body habitus, may
   be due to pain
   - pain control
   - getting ABG to see respiratory status
   .
   # Erythrocytosis: concentration + ? OSA or PCV. After falling with
   dilution, likely hemoconcentration
   - trend
   - outpatient follow up
   .
   # HTN: continue home med amlodipine, hold lisinopril due to ARF.
   - restart lisinopril after njt
   .
   # DMII: ISS
   .
   # hyperlipidemia: control with statins
   .
   FEN: IVF, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin, pboots, famotidine.
   Access: CVL
   Code:  Full
   Communication: Patient; has sister [**Doctor First Name 429**] who is next-of-[**Doctor First Name **]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-15**] 08:19 PM
   Multi Lumen - [**2142-4-16**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-04-17 10:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains sedated, but arrousble to voice, able to communicate via
   nodding.
   Bladder pressure measured as 37 cm H2O --> general surgery following.
   CVP= 14 cm H2O
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Rash;
   Vancomycin
   Rash;
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2142-4-16**] 08:55 AM
   Meropenem - [**2142-4-17**] 05:47 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-4-16**] 02:15 PM
   Fentanyl - [**2142-4-16**] 02:15 PM
   Famotidine (Pepcid) - [**2142-4-16**] 11:36 PM
   Heparin Sodium (Prophylaxis) - [**2142-4-17**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Gastrointestinal: Distended abd
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2142-4-17**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.9
C (100.3
   HR: 116 (113 - 136) bpm
   BP: 125/73(83) {104/62(75) - 153/86(98)} mmHg
   RR: 19 (18 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (3 - 14)mmHg
   Bladder pressure: 37 (37 - 37) mmHg
   Total In:
                                                                  9,017 mL
                                                                    960 mL
   PO:
   TF:
   IVF:
                                                                  8,917 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    395 mL
   Urine:
                                                                  1,210 mL
                                                                    395 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  7,757 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: /// 21/
   Ve: 13.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   122 K/uL
   116 mg/dL
   1.1 mg/dL
    21 mEq/L
   3.8 mEq/L
   22 mg/dL
   115 mEq/L
   145 mEq/L
   39.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2142-4-14**]  08:56 PM
                             [**2142-4-15**]  04:30 AM
                             [**2142-4-15**]  10:45 AM
                             [**2142-4-15**]  03:15 PM
                             [**2142-4-16**]  03:51 AM
                             [**2142-4-16**]  02:11 PM
                             [**2142-4-16**]  11:58 PM
                             [**2142-4-17**]  04:22 AM
   WBC
   23.1
   25.6
   20.2
   14.3
   Hct
   56.5
   54.6
   44.2
   41.3
   39.0
   Plt
   [**Telephone/Fax (3) 12199**]22
   Cr
   1.7
   1.4
   1.3
   1.1
   1.3
   1.1
   1.1
   TCO2
   19
   Glucose
   277
   194
   136
   118
   114
   116
   Other labs: PT / PTT / INR:14.3/25.4/1.2, ALT / AST:16/19, Alk Phos / T
   Bili:39/1.1, Amylase / Lipase:/977, Differential-Neuts:90.8 %,
   Lymph:4.0 %, Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.9
   g/dL, LDH:385 IU/L, Ca++:6.9 mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- attributed to severe intraabdominal
   inflammation, positive fluid balance in context of fluid resusitation.
   Consider esophogeal balloon to more closely estimate pleural pressure.
   ACUTE PANCREATITIS -- radiographic evidence for necrosis.
   - tolerating hydration, now 11.5 L positive for LOS.
   - c/w unasyn, will switch to meropenem given necrosis
   - comanage with surgery, GI
   - trend lactate
   - would hold off on MRCP until discuss with GI/liver again. Normal
   Tbili and ALP
   General surgery to follow.
   ACUTE RENAL FAILURE -- attributed to hypovolemia, 3rd spacing from
   intraabdominal inflammation.  Continue net hydration.
   - improved substantially
   Acute respiratory failure
   - will be difficult to extubate with >11 L positive volume balance
   - PSV trials and wean as tolerated
   Leukocytosis - improving
   Sinus tachycardia
   - likely 3rd spacing +/- pain +/- underlying pancreatitis +/- BB
   withdrawal.
   - put back on home metoprolol
   Nutrition
 may need jejunal vs parenteral nutrition.  Hope to start
   tropic tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-15**] 08:19 PM
   Multi Lumen - [**2142-4-16**] 03:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2142-04-18 07:30:00 Physician Resident Progress Note
Chief Complaint: - amlodipine d/c'd, metoprolol changed to TID 150.
   - starting TPN, re-eval for TEN by NJ tube daily (eval ng output, bowel
   sounds)
   - bladder pressure was 20, CVP was noted to be 14.
   - required multiple rounds of Metoprolol, and recieved 3x lasix
   24 Hour Events:
 FEVER - 101.2
F - [**2142-4-17**] 06:00 PM
   Allergies:
   Penicillins
   Rash;
   Vancomycin
   Rash;
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2142-4-16**] 08:55 AM
   Meropenem - [**2142-4-18**] 06:10 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-4-17**] 07:54 AM
   Midazolam (Versed) - [**2142-4-17**] 04:45 PM
   Metoprolol - [**2142-4-17**] 07:37 PM
   Famotidine (Pepcid) - [**2142-4-18**] 12:00 AM
   Fentanyl - [**2142-4-18**] 12:35 AM
   Furosemide (Lasix) - [**2142-4-18**] 06:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-4-18**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 124 (114 - 141) bpm
   BP: 155/74(92) {119/44(73) - 155/92(105)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 130.5 kg (admission): 119 kg
    CVP: 14 (4 - 16)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  2,462 mL
                                                                  1,485 mL
   PO:
   TF:
   IVF:
                                                                  1,926 mL
                                                                    989 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  1,085 mL
   Urine:
                                                                  2,710 mL
                                                                  1,085 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 18.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   12.6 g/dL
   236 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   25 mg/dL
   111 mEq/L
   144 mEq/L
   38.4 %
   15.6 K/uL
        [image002.jpg]
                             [**2142-4-14**]  08:56 PM
                             [**2142-4-15**]  04:30 AM
                             [**2142-4-15**]  10:45 AM
                             [**2142-4-15**]  03:15 PM
                             [**2142-4-16**]  03:51 AM
                             [**2142-4-16**]  02:11 PM
                             [**2142-4-16**]  11:58 PM
                             [**2142-4-17**]  04:22 AM
                             [**2142-4-17**]  05:42 PM
                             [**2142-4-18**]  03:55 AM
   WBC
   23.1
   25.6
   20.2
   14.3
   15.6
   Hct
   56.5
   54.6
   44.2
   41.3
   39.0
   38.4
   Plt
   [**Telephone/Fax (3) 12199**]22
   152
   Cr
   1.7
   1.4
   1.3
   1.1
   1.3
   1.1
   1.1
   1.3
   1.2
   TCO2
   19
   Glucose
   277
   194
   136
   118
   114
   116
   139
   236
   Other labs: PT / PTT / INR:14.3/25.4/1.2, ALT / AST:16/19, Alk Phos / T
   Bili:39/1.1, Amylase / Lipase:/50, Differential-Neuts:90.8 %, Lymph:4.0
   %, Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.9 g/dL,
   LDH:385 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   64 yo M with HTN, DMII, HLD, morbid obesity, p/w findings c/w
   pancreatitis, need to be evaled for question ERCP prior to questionable
   surgery for cholecystitis.
   .
   # Respiratory failure: tachypnea with poor saturation almost entirely
   due to restrictive physiology of abdominal expansion and pain
   - likely have to wait until fluid balance is negative, will administer
   lasix with goal net negative 2 L today, check PM lytes
   - RSBI, SBT daily
   - wean sedation
   - obtain ABG, consider increasing PEEP given increased intraabdominal
   pressure
   .
   # pancreatitis/cholecystitis: Unclear precipitant. Cholecystitis likely
   from backwash of inflammatory pancreatic fluid. Partially necrosed with
   fluid collection. His risk is very high - increasing CRP, falling
   calcium, respiratory distress.  No bowel sounds this AM with continued
   drainage from NG tube
 patient not ready to start PO feeds.
   - IVF, NGT placed, NPO except meds, continue TPN
   - NG tube clamp trial today
   - Meropenem, D1 = [**4-16**]
   - f/u GI recs re: TPN, surgery recs
   .
   # ARF: likely due to dehydration, could be due to his underlying DM.
   Resolving with hydration
   - IVF for now
   - trend cr
   - dose meds renally
   - avoid nephrotoxins
   .
   # leukocytosis - likely due to inflamed pancreas, hemoconcentration,
   constipation. Resolving.
   - trend
   .
   # tachycardia: persistent although pt reports tachycardia at baseline.
   - trend after IVF
   - clamp NGT; if tolerates, switch to home dose PO BB
   - uptitrate lopressor to 15 mg IV Q4H
   .
   # obesity/tachypnea: likely will have a component of body habitus, may
   be due to pain
   - pain control
   - getting ABG to see respiratory status
   .
   # Erythrocytosis: concentration + ? OSA or PCV. After falling with
   dilution, likely hemoconcentration
   - trend
   - outpatient follow up
   .
   # HTN: continue home med amlodipine, hold lisinopril due to ARF.
   - restart lisinopril after njt
   .
   # DMII: BG 236 today, will uptitrate RISS for goal <150
   .
   # hyperlipidemia: control with statins
   .
   FEN: IVF, replete electrolytes, NPO
   .
   Prophylaxis: Subcutaneous heparin, pboots, famotidine.
   .
   Access: CVL
   .
   Code:  Full
   .
   Communication: Patient; has sister [**Doctor First Name 429**] who is next-of-[**Doctor First Name **]
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2142-4-17**] 06:13 PM 66.[**Telephone/Fax (3) 3293**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-15**] 08:19 PM
   Multi Lumen - [**2142-4-16**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-04-18 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory faiilure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubatd, mechanically ventilated.
   Sedated, but arrousable, appropriate.
   Remains febrile.
   Continues with significant NG output.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Rash;
   Vancomycin
   Rash;
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2142-4-16**] 08:55 AM
   Meropenem - [**2142-4-18**] 06:10 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-4-17**] 04:45 PM
   Metoprolol - [**2142-4-17**] 07:37 PM
   Famotidine (Pepcid) - [**2142-4-18**] 12:00 AM
   Furosemide (Lasix) - [**2142-4-18**] 06:36 AM
   Fentanyl - [**2142-4-18**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2142-4-18**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.8
   HR: 123 (114 - 141) bpm
   BP: 124/61(78) {110/44(55) - 155/92(105)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 130.5 kg (admission): 119 kg
   CVP: 14 (11 - 16)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  2,462 mL
                                                                  2,096 mL
   PO:
   TF:
   IVF:
                                                                  1,926 mL
                                                                  1,347 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  3,090 mL
   Urine:
                                                                  2,710 mL
                                                                  2,740 mL
   NG:
                                                                    500 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                   -994 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 99%
   ABG: ///26/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: , No(t) Obese, Obese abdomen softer to exam today, less
   distended.
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.6 g/dL
   152 K/uL
   236 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   25 mg/dL
   111 mEq/L
   144 mEq/L
   38.4 %
   15.6 K/uL
        [image002.jpg]
                             [**2142-4-14**]  08:56 PM
                             [**2142-4-15**]  04:30 AM
                             [**2142-4-15**]  10:45 AM
                             [**2142-4-15**]  03:15 PM
                             [**2142-4-16**]  03:51 AM
                             [**2142-4-16**]  02:11 PM
                             [**2142-4-16**]  11:58 PM
                             [**2142-4-17**]  04:22 AM
                             [**2142-4-17**]  05:42 PM
                             [**2142-4-18**]  03:55 AM
   WBC
   23.1
   25.6
   20.2
   14.3
   15.6
   Hct
   56.5
   54.6
   44.2
   41.3
   39.0
   38.4
   Plt
   [**Telephone/Fax (3) 12199**]22
   152
   Cr
   1.7
   1.4
   1.3
   1.1
   1.3
   1.1
   1.1
   1.3
   1.2
   TCO2
   19
   Glucose
   277
   194
   136
   118
   114
   116
   139
   236
   Other labs: PT / PTT / INR:14.3/25.4/1.2, ALT / AST:16/19, Alk Phos / T
   Bili:39/1.1, Amylase / Lipase:/50, Differential-Neuts:90.8 %, Lymph:4.0
   %, Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.9 g/dL,
   LDH:385 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- attributed to severe intraabdominal
   inflammation, positive fluid balance in context of fluid resusitation.
   Consider esophogeal balloon to more closely estimate pleural pressure.
   Eventually work towards SBT once able to allow net diuresis towards dry
   weight.
   ACUTE PANCREATITIS -- radiographic evidence for necrosis.  Continue
   supportive care including hydration (3rd spacing), meropenem.  GI, ERCP
   and General surgery to follow.
   ACUTE RENAL FAILURE -- attributed to hypovolemia, 3rd spacing from
   intraabdominal inflammation.  Improved.  Monitor BUN, creatinine.
   TACHYCARDIA -- Sinus tachycardia, attributed to pain, hyovolemia,
   b-blocker withdrawal.  Improved with gradual resumption of usual
   b-blocker medication.  Monitor.
   HYPERGLYCEMIA
 increased, likely attributed to pancreatitis.  Monitor
   glucose, maintain <150.
   FLUIDS
 Total body expanded, intravascularly replete (CVP= 14).  Hope
   to allow net volume reduction (1-2 L/24 hrs), mobilization if
   tolerates.  Monitor UO.
   NUTRITION
 TPN.  Hope to start tropic tube feeds once ileus resolves.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2142-4-17**] 06:13 PM 66.[**Telephone/Fax (3) 3293**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-4-15**] 08:19 PM
   Multi Lumen - [**2142-4-16**] 03:42 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2142-04-19 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Slowly reducing dose of sedatives.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Rash;
   Vancomycin
   Rash;
   Levofloxacin
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2142-4-19**] 05:20 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-4-18**] 09:03 PM
   Heparin Sodium (Prophylaxis) - [**2142-4-18**] 10:40 PM
   Famotidine (Pepcid) - [**2142-4-18**] 11:22 PM
   Furosemide (Lasix) - [**2142-4-18**] 11:25 PM
   Metoprolol - [**2142-4-19**] 06:00 AM
   Fentanyl - [**2142-4-19**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2142-4-19**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**43**] AM
   Tmax: 39
C (102.2
   Tcurrent: 38.4
C (101.2
   HR: 122 (103 - 136) bpm
   BP: 111/65(74) {106/57(71) - 137/75(86)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 131.6 kg (admission): 119 kg
   CVP: 11 (9 - 11)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  4,188 mL
                                                                  1,361 mL
   PO:
   TF:
   IVF:
                                                                  2,585 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                  5,210 mL
                                                                  1,515 mL
   Urine:
                                                                  4,705 mL
                                                                  1,265 mL
   NG:
                                                                    505 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,022 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 444 (444 - 460) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: ///29/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Erythematous rash on back
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, Cyanosis, No(t) Clubbing, Mild cyanosis of soles
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   12.3 g/dL
   146 K/uL
   265 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.4 mEq/L
   26 mg/dL
   111 mEq/L
   146 mEq/L
   37.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2142-4-15**]  10:45 AM
                             [**2142-4-15**]  03:15 PM
                             [**2142-4-16**]  03:51 AM
                             [**2142-4-16**]  02:11 PM
                             [**2142-4-16**]  11:58 PM
                             [**2142-4-17**]  04:22 AM
                             [**2142-4-17**]  05:42 PM
                             [**2142-4-18**]  03:55 AM
                             [**2142-4-18**]  04:02 PM
                             [**2142-4-19**]  02:50 AM
   WBC
   20.2
   14.3
   15.6
   12.8
   Hct
   44.2
   41.3
   39.0
   38.4
   37.7
   Plt
   133
   122
   152
   146
   Cr
   1.3
   1.1
   1.3
   1.1
   1.1
   1.3
   1.2
   1.1
   1.1
   TCO2
   19
   Glucose
   136
   118
   114
   116
   139
   236
   298
   265
   Other labs: PT / PTT / INR:13.6/32.2/1.2, ALT / AST:16/19, Alk Phos / T
   Bili:39/1.1, Amylase / Lipase:24/18, Differential-Neuts:90.8 %,
   Lymph:4.0 %, Mono:4.9 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.9
   g/dL, LDH:385 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- attributed to severe intraabdominal
   inflammation, positive fluid balance in context of fluid resusitation.
   Consider esophogeal balloon to more closely estimate pleural pressure.
   Eventually work towards SBT once able to allow net diuresis towards dry
   weight.
   ACUTE PANCREATITIS -- radiographic evidence for necrosis.  Continue
   supportive care including hydration (3rd spacing), meropenem.  GI, ERCP
   and General surgery to follow.
   ACUTE RENAL FAILURE -- attributed to hypovolemia, 3rd spacing from
   intraabdominal inflammation.  Improved.  Monitor BUN, creatinine.
   TACHYCARDIA -- Sinus tachycardia, attributed to pain, hyovolemia,
   b-blocker withdrawal.  Improved with gradual resumption of usual
   b-blocker medication.  Monitor.
   HYPERGLYCEMIA
 increased, likely attributed to pancreatitis.  Monitor
   glucose, maintain <150.
   FLUIDS
 Total body expanded, intravascularly replete (CVP= 14).  Hope
   to allow net volume reduction (1-2 L/24 hrs), mobilization if
   tolerates.  Monitor UO.
   NUTRITION
 TPN.  Hope to start tropic tube feeds once ileus resolves.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2142-4-18**] 09:09 PM 66.[**Telephone/Fax (3) 3293**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-4-16**] 03:42 PM
   20 Gauge - [**2142-4-18**] 06:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill